US08039472B2
To 4-[4-((R)-2,2-Dimethyl-[1,3]dioxolan-4-ylmethoxy)-phenyl]-butan-1-ol (5.0 g, 17.8 mmol) in DCM (180 ml) is added Dess-Martin periodinane (7.56 g, 17.8 mmol). The yellowish solution is stirred at room temperature for 1 hour. The resultant yellow suspension is treated with 1 N NaOH solution (200 ml) and stirred at room temperature for 30 minutes. The organic phase is separated, dried (MgSO4) and concentrated to give 4-[4-((R)-2,2-Dimethyl-[1,3]dioxolan-4-ylmethoxy)-phenyl]-butyraldehyde as a clear oil; 1H NMR (CDCl3): 1.42, (3H, s), 1.48 (3H, s), 1.95 (2H, dt, J=7.6 and 14.2 Hz), 2.46 (2H, dt, J=1.5 and 7.3 Hz), 2.62 (2H, t, J=7.6 Hz), 3.90-3.96 (2H, m), 4.07 (1H, dd, J=5.2 and 9.3 Hz), 4.19 (1H, dd, J=6.4 and 8.1 Hz), 4.49 (1H, p, J=5.8 Hz), 6.86 (2H, d, J=9.4 Hz), 7.10 (2H, d, J=9.4 Hz), 9.77 (1H, t, J=1.6 Hz).

reactant | 4-[4-((R)-2,2-Dimethyl-[1,3]dioxolan-4-ylmethoxy)-phenyl]-butan-1-ol | 17.8 mmol, 5.0 g | CC1(OC[C@H](O1)COC1=CC=C(C=C1)CCCCO)C | C16H24O4
reactant | Dess-Martin periodinane | 17.8 mmol, 7.56 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | NaOH | 1 N, 200 ml | [OH-].[Na+]
solvent | DCM | 180 ml | C(Cl)Cl | CH2Cl2
product | 4-[4-((R)-2,2-Dimethyl-[1,3]dioxolan-4-ylmethoxy)-phenyl]-butyraldehyde | CC1(OC[C@H](O1)COC1=CC=C(C=C1)CCCC=O)C | C16H22O4
